data/core_train_final.csv
"[CH2:6]=[CH:7][CH:8]=[CH2:9].[CH2:5]=[CH:4][CH:3][CH2:2][OH:1]>>[CH2:5]=[CH:4][CH:3]([CH2:9][CH:8]=[CH:7][CH2:6])[CH2:2][OH:1] 3-3,9; 8,9-3,9; 7,6-6; 7,6-7,8; 8,9-7,8",Room Temperature,Propagation,addition
"[H:6][C:5]([H:7])([H:8])[CH2:4][CH2:3][CH2:2][CH3:1].[Cl:9]>>[H:6][C:5]([H:7])[CH2:4][CH2:3][CH2:2][CH3:1].[H:8][Cl:9] 9-9,8;5,8-9,8;5,8-5",Room Temperature,Propagation,abstraction
"[H:13][C:12]([H:14])[CH2:11][CH2:10][CH3:9].[H:5][C:4]([H:6])([CH2:7][CH3:8])[CH2:3][CH2:2][CH3:1]>>[H:5][C:4]([CH2:7][CH3:8])[CH2:3][CH2:2][CH3:1].[H:13][C:12]([H:14])([H:6])[CH2:11][CH2:10][CH3:9] 12-12,6;4,6-12,6;4,6-4",Room Temperature,Propagation,abstraction
"[H:1][C:2]([CH2:15][C:16](=[CH:18][CH2:19][CH2:20][C:21](=[CH:23][CH2:24])[CH3:22])[CH3:17])([CH2:25][NH2:26])[NH:3][CH2:4][CH2:5][N+:6]([H:7])([H:14])[CH2:8][CH2:9][NH:10][CH2:11][CH2:12][NH2:13].[CH3:27][C:28](=[CH2:31])[CH:29]=[CH2:30]>>[H:1][C:2]([CH2:15][C:16](=[CH:18][CH2:19][CH2:20][C:21](=[CH:23][CH2:24][CH2:31][C:28](=[CH:29][CH2:30])[CH3:27])[CH3:22])[CH3:17])([CH2:25][NH2:26])[NH:3][CH2:4][CH2:5][N+:6]([H:7])([H:14])[CH2:8][CH2:9][NH:10][CH2:11][CH2:12][NH2:13] 24-24,31; 28,31-24,31; 28,31-28,29; 29,30-28,29; 29,30-30",Room Temperature,Propagation,addition
"CC1CCCC1.[Cl:20][Cl:21].[He]>>[He].CC1CCCC1.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[O:3].[O:2][Br:1]>>[O:2][O:3][Br:1] 3-2,3; 2-2,3",Room Temperature,Termination,recombine
"[H:20][CH:21]1[N:22]CN(CN1[N+](=O)[O-])[N+](=O)[O-].N(=O)[O:10]>>[H:20][O:10]N=O.C1[N:22]=[CH:21]N(CN1[N+](=O)[O-])[N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][Br:21].C[O:10]>>[H:20][O:10]C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C1=CC=CC=C1.[CH3:10]>>[H:20][CH3:10].[CH2:21]C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:7][C:6]([H:8])[CH:5]=[C:2]([CH3:1])[CH2:3][OH:4].[CH3:12][C:11](=[CH2:13])[CH:10]=[CH2:9]>>[H:7][C:6]([H:8])([CH2:13][C:11]([CH3:12])[CH:10]=[CH2:9])[CH:5]=[C:2]([CH3:1])[CH2:3][OH:4] 6-6,13; 13,11-13,6; 11,13-11",Room Temperature,Propagation,addition
"CC1(O[O:10])C(C2)C(C(C3C2C(N(C)C)C4=C(C(OCC5=CC=CC=C5)=NO4)C3=O)=O)(SC6=CC=CC=C6)[C:21](O)([H:20])C7=C1C=CC=C7OCC8=CC=CC=C8>>CC9(O[O:10][H:20])C(C%10)C(C(C%11C%10C(N(C)C)C%12=C(C(OCC%13=CC=CC=C%13)=NO%12)C%11=O)=O)(SC%14=CC=CC=C%14)[C:21](O)C%15=C9C=CC=C%15OCC%16=CC=CC=C%16 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:5][C:4]1([CH:6]([CH2:8][C:2]1([CH3:1])[CH3:3])[CH3:7])[H:9].[Cl:10]>>[H:5][C:4]1[CH:6]([CH2:8][C:2]1([CH3:1])[CH3:3])[CH3:7].[H:9][Cl:10] 10-10,9;9,4-9,10;4,9-4",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C(=O)C.CC1CCC(C1CCC(=O)C)[C:10](C)C>>[H:20][C:10](C)(C)C1CCC(C1CCC(=O)C)C.CC(=O)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1CC[CH:10]1.[Cl:20][Cl:21]>>CC1CC[CH:10]1[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]([CH:5]=[C:6]1[CH:7]=[CH:8][C:9](=[O:14])[C:10](=[CH:13]1)[O:11][CH3:12])[C:2](=[O:15])[O-:1]>>[H:4][C:3](=[C:2]([O-:1])[O:15])[CH:5]=[C:6]1[CH:7]=[CH:8][C:9](=[O:14])[C:10](=[CH:13]1)[O:11][CH3:12] 3-2,3; 2,15-2,3; 2,15-15",Room Temperature,Propagation,resonance
"[H:6][C:5](=[O:7])[CH2:4][CH2:3][CH:2]([CH3:1])[CH3:8].[CH:10]1=[CH:9][CH:14]=[C:13][CH:12]=[CH:11]1>>[H:6][C:9]1=[CH:10][CH:11]=[CH:12][CH:13]=[CH:14]1.[CH3:1][CH:2]([CH3:8])[CH2:3][CH2:4][C:5]=[O:7] 6,5-5;13-6,13;5,6-13,6",Room Temperature,Propagation,abstraction
"CCC(C[CH:10]C1=CC=CC=C1)C2=CC=CC=C2.[CH2:20]=[CH:21]C1=CC=CC=C1>>CCC(C[CH:10]([CH2:20][CH:21]C1=CC=CC=C1)C2=CC=CC=C2)C3=CC=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1=CC=C(C=C1)[CH:21]=[CH2:20].CC1=CC=C(C=C1)[CH:10]CC(CC(CC(C)(C)C#N)C2=CC=C(C=C2)C)C3=CC=C(C=C3)C>>CC1=CC=C(C=C1)[CH:21][CH2:20][CH:10](CC(CC(CC(C)(C)C#N)C2=CC=C(C=C2)C)C3=CC=C(C=C3)C)C4=CC=C(C=C4)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1(CCCOCC2=CC=CC=C2)[CH:10]C(C3CC(CCCC(CCOCOC)C)CC3)CCC1.CCCC[Sn:21](CCCC)([H:20])CCCC>>CC4(CCCOCC5=CC=CC=C5)[CH:10]([H:20])C(C6CC(CCCC(CCOCOC)C)CC6)CCC4.CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[I:21][H:20].[CH3:10]>>[I:21].[H:20][CH3:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=C[CH:10]CCC1.[Br:20][Br:21]>>CC1=C[CH:10](CCC1)[Br:20].[Br:21] 21,20-10,20;21,20-21;10-20,10",Room Temperature,Propagation,abstraction
"CCCC[CH:10]C.[Cl:20][Cl:21]>>CCCC[CH:10](C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1([CH2:3][N:4]1[O:5])[CH3:6]>>[CH3:1][C:2]([CH3:6])[CH2:3][N:4]=[O:5] 5-4,5;2,4-4,5;2,4-2",Room Temperature,Propagation,retroaddition
"[H:20][C:21](C)(CCCO[O:10])OC>>[H:20][O:10]OCCC[C:21](C)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
